US05116829
21-[2-(Formylamino)-4-methylthio-1-oxobutylthio]-11β,17-dihydroxy-pregna-4-ene-3,20-dione (Compound No. 7)
The title compound (0.38 gm) was prepared from 11β,17-dihydroxy-pregna-4-ene-3,20-dione-21-thiol (1.00 gm) and N-formyl-L-methionine (1.41 gm) in the same manner as in Synthetic Example 1.

reactant | 11β,17-dihydroxy-pregna-4-ene-3,20-dione-21-thiol | 1.00 gm | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CC[C@](C(CS)=O)([C@]2(C1)C)O)=O)C | C21H30O4S
reactant | N-formyl-L-methionine | 1.41 gm | C(=O)N[C@@H](CCSC)C(=O)O | C6H11NO3S
product | 21-[2-(Formylamino)-4-methylthio-1-oxobutylthio]-11β,17-dihydroxy-pregna-4-ene-3,20-dione | 0.38 gm | C(=O)NC(C(SCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)O)=O)=O)CCSC | C27H39NO6S2
